E6 F302 step_0
.include TLV9062_ngspice.lib
.options reltol=1e-6 vntol=1e-9 abstol=1e-13
.temp 25
Vdd vdd 0 3.3
Vin inp 0 PULSE(0.15 3.1 2u 1n 1n 8u 20u)
X1 inp inv vdd 0 drive TLV9062
Vfb inv drive DC 0 AC 0
Cpcb drive 0 30p
Riso drive adc 101
Cf adc 0 383.5p
Rsw adc sample 5000
Cs sample 0 10p

.control
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 1n 18u 0 1n
wrdata step_0.dat v(adc) v(sample)
quit
.endc
.end
